US04165377
A mixture of 2-guanidino-4-(4-aminobutyl)thiazole (0.43 g.) and 1,1-di(methylthio)-2-nitroethylene (0.33 g.) in acetonitrile (15 ml.) was heated under reflux for 1 hour. The mixture evaporated to dryness and 33% w/v ethanolic methylamine (200 ml.) added. The mixture was stirred for 5 days at room temperature, then filtered and the filtrate evaporated to dryness. The residue was crystallized from ethanol to give 1-[4-(2-guanidinothiazol-4-yl)butylamino]-1-methylamino-2-nitroethylene, m.p. 225° C. (decomposed).

reactant | 2-guanidino-4-(4-aminobutyl)thiazole | 0.43 g | N(C(=N)N)C=1SC=C(N1)CCCCN | C8H15N5S
reactant | 1,1-di(methylthio)-2-nitroethylene | 0.33 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-[4-(2-guanidinothiazol-4-yl)butylamino]-1-methylamino-2-nitroethylene | N(C(=N)N)C=1SC=C(N1)CCCCNC(=C[N+](=O)[O-])NC | C11H19N7O2S
